### PR TITLE
[Merged by Bors] - feat: add tests for `cutsat` and `grobner` frontends to `grind`

### PR DESCRIPTION
**Pull request by kim-em**
Ports the old `polyrith` tests to tests for `grobner`.

### CODE REVIEW

**Review by euprunin — APPROVED** [review]

**Comment by kim-em** [comment]
This will be replaced by https://github.com/leanprover/lean4/pull/10322 in `v4.24.0`, but I would like to have this in the meantime, to be able to experiment to get the settings right.

**Comment by hrmacbeth** [comment]
Can you please duplicate the `polyrith` test file to serve as a test file for `grobner`?

Also interested in whether we should actually name the tactic `polyrith`, rather than `grobner`. (See discussion at https://github.com/leanprover-community/mathlib4/pull/29334#issuecomment-3267086660 and on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2329334.20Should.20grind.20be.20preferred.20to.20linear_combination.3F/near/538428155).) Maybe @robertylewis can comment here on whether it is better to keep the `polyrith` name free in case we get the other approach working again.

**Comment by hrmacbeth** [comment]
Since part of the point here is that these frontends shouldn't do *more* than `grind`, can you please also bring in a representative sample of the `grind` tests and make them *failure* tests (using `guard_msgs`) for `cutsat` and `grobner`?

**Comment by kim-em** [comment]
> Since part of the point here is that these frontends shouldn't do _more_ than `grind`, can you please also bring in a representative sample of the `grind` tests and make them _failure_ tests (using `guard_msgs`) for `cutsat` and `grobner`?

leanprover/lean4#10322 already has some basic tests of this form.

**Comment by kim-em** [comment]
> Can you please duplicate the `polyrith` test file to serve as a test file for `grobner`?

Done. `grind` doesn't yet understand `OfScientific` (it's on the todo list), so that it commented out, but otherwise everything works.

File: MathlibTest/grind/grobner.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+example (a b : ℤ) (h : a + b = 4) : a + b = 0 := by
+  fail_if_success grobner
+  sorry
+
+/-- warning: declaration uses 'sorry' -/
+#guard_msgs in
+example (a : ℕ) : a = 0 := by
+  have := True.intro
+  fail_if_success grobner
+  sorry
```
Comment (eric-wieser) [inline MathlibTest/grind/grobner.lean]: Can you add a comment explaining why this fails? Is this a deliberate faliure, or a missing feature upstream?

Comment (kim-em) [reply MathlibTest/grind/grobner.lean]: These were copied from the polyrith tests by request above. I'm not sure what they were testing there, as obviously this goals were unsolvable. I'll just delete them.

Comment (kim-em) [reply MathlibTest/grind/grobner.lean]: Presumably at some point in `polyrith`'s development it was filling goals with `sorry`? I'm not sure.

File: Mathlib/Tactic/TacticAnalysis/Declarations.lean [hunk 2]
```diff
@@ -210,3 +210,7 @@ def introMerge : TacticAnalysis.Config := .ofComplex {
       return none
   tell _stx _old _oldHeartbeats new _newHeartbeats :=
     if let some tac := new then m!"Try this: {tac}" else none}
+/-- Suggest replacing a sequence of tactics with `grobner` if that also solves the goal. -/
+register_option linter.tacticAnalysis.terminalToGrobner : Bool := {
+  defValue := true
+}
```
Comment (kim-em) [inline Mathlib/Tactic/TacticAnalysis/Declarations.lean]:
```suggestion
```

File: MathlibTest/grind/grobner.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+  -y + 2*x + 4 = -16 := by grobner
+
+example (x y z : ℝ) (ha : x + 2*y - z = 4) (hb : 2*x + y + z = -2)
+    (hc : x + 2*y + z = 2) :
+  -3*x - 3*y - 4*z = 2 := by grobner
+
+-- `grind` does not yet understand scientific notation:
+-- example (w x y z : ℝ) (h1 : x + 2.1*y + 2*z = 2) (h2 : x + 8*z + 5*w = -6.5)
+--     (h3 : x + y + 5*z + 5*w = 3) :
+--   x + 2.2*y + 2*z - 5*w = -8.5 := by grobner
```
Comment (Vierkantor) [inline MathlibTest/grind/grobner.lean]: If we use `fail_if_success`, we get reminded to update the test when `grobner` starts working on scientific notation.
```suggestion
example (w x y z : ℝ) (h1 : x + 2.1*y + 2*z = 2) (h2 : x + 8*z + 5*w = -6.5)
    (h3 : x + y + 5*z + 5*w = 3) :
    x + 2.2*y + 2*z - 5*w = -8.5 := by
  -- `grind` does not yet understand scientific notation:
  fail_if_success grobner
  sorry
```

**Review by Vierkantor — APPROVED** [review]
bors d+

**Comment by kim-em** [comment]
bors merge
